US03940393
[2,6-Diamino-5-(p-Chlorophenyl)-4-Pyrimidinyl] Methyl Ketone Oxime
[2,6-Diamino-5-(p-chlorophenyl)-4-pyrimidinyl] methyl ketone (2.6 g.) was dissolved in 30 ml. of ethanol and hydroxylamine, hydrochloride (1.5 g.) and sodium acetate (2.5 g.) in 25 ml. of water was added and the mixture refluxed for 5 hours. After cooling a white precipitate separated; it was recrystallized from methanol to give 1.5 g. of the title product, m.p. 256°-259°.

reactant | [2,6-Diamino-5-(p-chlorophenyl)-4-pyrimidinyl] methyl ketone | 2.6 g | CC(=O)C1=NC(=NC(=C1C1=CC=C(C=C1)Cl)N)N | C12H11ClN4O
reactant | ethanol | C(C)O | C2H6O
reactant | hydroxylamine, hydrochloride | 1.5 g | Cl.NO
reactant | sodium acetate | 2.5 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | [2,6-Diamino-5-(p-Chlorophenyl)-4-Pyrimidinyl] Methyl Ketone Oxime | CC(C1=NC(=NC(=C1C1=CC=C(C=C1)Cl)N)N)=NO | C12H12ClN5O
